US08334322B1
Preparation of Imipramine Xinafoate
To a solution containing 7.7 g of 3-hydroxy-2-napthoic acid in 75.0 g of USP water was added as necessary dilute HCl or NaOH solution to adjust the solution to about pH 9.4. To a second solution of 13.6 g of imipramine HCl in 100.0 g of USP water was added as necessary dilute HCl or NaOH solution to adjust the solution to about pH 4.5. The imipramine HCl solution was added to the 3-hydroxy-2-napthoic sodium salt solution over a period of about 2 h. The mixture was stirred and held at around 50° C. for at least 18 h. The mixture was cooled to below 25° C. and the solids were collected by filtration. The solid cake was washed with USP water (2×100 g). The solid cake was dried at 105° C. under vacuum to yield a powder (12.7 g) and characterized by DSC (FIG. 13), FTIR (FIG. 14) and 1H NMR (FIG. 15).

reactant | 3-hydroxy-2-napthoic acid | 7.7 g | OC=1C(=CC2=CC=CC=C2C1)C(=O)O | C11H8O3
reactant | HCl | Cl | ClH
reactant | NaOH | [OH-].[Na+]
reactant | imipramine HCl | 13.6 g | CN(C)CCCN1C=2C=CC=CC2CCC3=C1C=CC=C3.Cl
solvent | water | O | H2O
product | Imipramine | 12.7 g | CN(C)CCCN1C=2C=CC=CC2CCC3=C1C=CC=C3 | C19H24N2
